US08034806B2
To a suspension of 5-bromoisobenzofuran-1(3H)-one III-1 (6.57 g, 30.1 mmol) in MeOH (140 mL) was added NH4OH (60 mL). The reaction vessel was sealed and stirred for 36 h. The reaction was The reaction was concentrated under vacuum to afford 4-bromo-2-(hydroxymethyl)benzamide (7.10 g, 99%) as a white solid; 1H-nmr (400 MHz, CDCl3) δ 7.80 (d, J=8.5 Hz, 1H), 7.70 (s, 1H), 7.68 (s, 2H), 7.61 (s, 1H), 7.59-7.50 (m, 2H), 6.34 (br s, 1H), 5.72 (br s, 1H), 4.64 (s, 2H); LC (254 nM) 1.12 min (>98%); MS (ESI) m/z=231.8.

reactant | 5-bromoisobenzofuran-1(3H)-one | BrC=1C=C2COC(C2=CC1)=O | C8H5BrO2
reactant | NH4OH | 60 mL | [NH4+].[OH-]
solvent | MeOH | 140 mL | CO | CH4O
product | 4-bromo-2-(hydroxymethyl)benzamide | 7.10 g, 99% | BrC1=CC(=C(C(=O)N)C=C1)CO | C8H8BrNO2
